datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC[CH+:11][CH2:62][Si:63](C)(C)C.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2:20][H:10])[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"C1CC[C:21](=[O:20])C1.C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>C1CC[C-:21]([O:20][H:10])C1.C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21"
"CCC[C:11](C)=[CH2:10].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CCC[C+:11](C)[CH2:10][CH:20]([C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"Br[Zn-:11](Br)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>Br[Zn:11]Br.CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:76]=[CH:75][CH:74]=[CH:73]3)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1=CC2=CC=CC(CC3CC4CC[N:10]3CC4)=C2C=C1.C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1>>C1=CC=C(C[N:23](CC2=CC=CC=C2)[CH:22]=[CH:21][CH:20]([N+:10]23CCC(CC2)CC3CC2=C3C=CC=CC3=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10=20;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](C)=[CH:72]2.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>C[C:11]1=[NH+:12][C:62]2=[C:61]([CH:10]1[CH:20]([C:21]1=[CH:22][N:23](C)C3=C1C=CC=C3)[C:31]1=[CH:32][N:33](C)[C:42]3=[C:41]1C=CC=C3)[CH:72]=[C:73](C)[CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si](C)(C)[O:64][C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>C[Si](C)(C)[O:64][C:13]1=[O+:14][CH:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14"
"CC(C)[C@@H]1C[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10][C@@H]1C1=CC=CC=C1.CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC(C)[C@@H]1C[N+:12]2=[C:11]([N:10]([CH:20]([CH:21]=[C:22](C3=[N+](C4=C(F)C(F)=C(F)C(F)=C4F)C=CN3C)[O-:23])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C@@H]1C1=CC=CC=C1)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].N#CC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([CH:10](C1=CC=C(C#N)C=C1)[C:11](=[N+:12]1CCCC1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C.C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C.C[Si](C)(C)C12[C:31]3([CH2:20][H:10])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].C[C:10](C)=[N+:11]([O-:12])[O-:62]>>C[C:10](C)([N+:11](=[O:12])[O-:62])[CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1 10,11=10,20;12=11,12;20,21=21"
C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.C[C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62]>>C[C:61]([CH:10]([CH:20]1[C:31]2=[C:32](C=CC=C2)[CH:33]=[CH:34][C:35]2=[C:36]1C=CC=C2)[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62] 10=20
CO[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:63]1=[C:62]([N:61]2[C:10]([C:20]([C:31]3=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]3)=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1 10=20
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.C[Si:71](C)(C)[CH-:10][N+:61]#[N:62]>>C[Si:71](C)(C)[CH:10]([CH2:20][CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[N+:61]#[N:62] 10=20;20,21=21,22;22,23=23"
